US07211672B2
Aniline (3.64 mL, 39.97 mmol, 1.0 equ) was dissolved in methylene chloride (100 mL) and Na2SO4 (2 g) was added and cooled to −25° C. Acetaldehyde (2.23 mL, 39.97 mmol, 1.0 equ.) was added to the solution and stirred for 1 h at −25° C. Sodium sulfate was filtered off and N-vinyl-carbamic acid benzyl ester (7.07 g, 39.97 mmol, 1.0 equiv) was added to the filtrate at −25° C., followed by boron triflouride diethyl etherate (0.50 mL, 3.9 mmol, 0.1 equ). The reaction was allowed to stir at −25° C. for 1 h and then warmed to room temperature and stirred for 10 h. The reaction was evaporated in vacuo and the residue was purified by Biotage flash system (20% ethyl acetate/80% hexane) to yield 4.0 g, 33% of (±)-cis-(2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid benzyl ester as a white solid.

reactant | Aniline | 39.97 mmol, 3.64 mL | NC1=CC=CC=C1 | C6H7N
reactant | Na2SO4 | 2 g | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Acetaldehyde | 39.97 mmol, 2.23 mL | C(C)=O | C2H4O
reactant | N-vinyl-carbamic acid benzyl ester | 39.97 mmol, 7.07 g, 1.0 equiv | C(C1=CC=CC=C1)OC(NC=C)=O | C10H11NO2
reactant | boron triflouride diethyl etherate | 3.9 mmol, 0.50 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (±)-cis-(2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl)-carbamic acid benzyl ester | 4.0 g, 33% | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@@H](NC2=CC=CC=C12)C)=O | C18H20N2O2
